US03989841
Fluorene-2-glyoxylic acid
A mixture of ethyl fluorene-2-glyoxylic acid (9.95 g) and sodium hydroxide (1.60 g) in 50% aqueous ethanol (100 ml) is refluxed for 0.5 hour, cooled and acidified to pH 2.0 with 10% HCl. The reaction mixture is extracted with ether, and the ether extracts dried (MgSO4) and evaporated. The residue is crystallized from benzene-hexane (Darco) to give the title compound (7.1 g. mp 135°-137°). The analytical sample is prepared by recrystallization from benzenehexane: mp 139°-140°.

reactant | ethyl fluorene-2-glyoxylic acid | 9.95 g | C(C)C1=C(C=CC=2C3=CC=CC=C3CC12)C(C(=O)O)=O | C17H14O3
reactant | sodium hydroxide | 1.60 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | Fluorene-2-glyoxylic acid | 7.1 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C(C(=O)O)=O | C15H10O3
